US08461157B2
Step 40a: N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (Compound 0602-117)
The title compound, 0602-117 was prepared (194 mg, 26%) as yellow solid from 5-bromo-N,N-dimethylpyrimidin-2-amine (0.61 g, 3 mmol), bis(pinacolato)diboron (1.14 g, 4.5 mmol), potassium acetate (0.88 g, 9 mmol), and Pd(dppf)2Cl2 (490 mg, 0.6 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 168 [M−81]+; 1HNMR (400 MHz, DMSO-d6) δ 1.27 (s, 12H), 3.14 (s, 6H), 8.47 (s, 2H).

reactant | 5-bromo-N,N-dimethylpyrimidin-2-amine | 3 mmol, 0.61 g | BrC=1C=NC(=NC1)N(C)C | C6H8BrN3
reactant | bis(pinacolato)diboron | 4.5 mmol, 1.14 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9 mmol, 0.88 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)2Cl2 | 0.6 mmol, 490 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | CN(C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C)C | C12H20BN3O2
